US06200998B1
Step A: Preparation of methyl 3-chloro-4-(3-bromopropylthio)phenylacetate
To a solution of methyl 3-chloro-4-dimethylcarbamoylthiophenylacetate (8.5 g, 0.0295 mol) in methanol (30 mL) was added 25% NaOMe in methanol (7.0 mL, 0.034 mol). The reaction was heated to reflux for 2 h. TLC analysis shows residual starting carbamate. Additional NaOMe/MeOH (1.0 mL) was added and the mixture stirred an additional 30 min at reflux. After cooling to ambient temperature, the thiolate solution was added dropwise to a solution of 1,3-dibromopropane (12 mL, 0.12 mol) in methanol (30 mL). The resulting solution was refluxed for 3 h then cooled to ambient temperature, After standing overnight, the reaction was quenched by pouring into ice water. After adjusting to pH1 with conc. HCl, the aqueous solution was extracted with EtOAc (0.2 L then 2×0.1 L). The combined organics were washed with water, brine, dried over anhyd. MgSO4, filtered, and concentrated. The residue was chromatographed over silica gel with 10% of ethyl acetate in hexane to afford the title compound.

reactant | methyl 3-chloro-4-dimethylcarbamoylthiophenylacetate | 0.0295 mol, 8.5 g | ClC=1C=C(C=CC1SC(N(C)C)=O)CC(=O)OC | C12H14ClNO3S
reactant | NaOMe | C[O-].[Na+]
reactant | carbamate | C(N)([O-])=O
reactant | NaOMe MeOH | 1.0 mL | C[O-].[Na+].CO
reactant | 1,3-dibromopropane | 0.12 mol, 12 mL | BrCCCBr | C3H6Br2
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 0.034 mol, 7.0 mL | CO | CH4O
product | methyl 3-chloro-4-(3-bromopropylthio)phenylacetate | ClC=1C=C(C=CC1SCCCBr)CC(=O)OC | C12H14BrClO2S
